US05405861
A mixture of ethyl bromopyruvate (3.6 g), cyclopropanethioamide (2.2 g) and ethanol (30 ml) was refluxed for two hours. The reaction mixture was cooled, then ethanol was distilled off under reduced pressure. To the residue was added water (30 ml), which was subjected to extraction with ethyl acetate (50 ml) twice. The extract solution was washed with water (30 ml), followed by drying over magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was subjected to a silica gel chromatography (2.5×30 cm), eluting with ethyl acetate-hexane (1:3). The desired fraction was concentrated to give ethyl 2-cyclopropyl-4-thiazolcarboxylate (0.84 g) as pale yellow needles.

reactant | ethyl bromopyruvate | 3.6 g | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | cyclopropanethioamide | 2.2 g | C1(CC1)C(N)=S | C4H7NS
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | ethyl 2-cyclopropyl-4-thiazolcarboxylate | 0.84 g | C1(CC1)C=1SC=C(N1)C(=O)OCC | C9H11NO2S
